data/mechanisms/records/IMS8-EQ8.104.json
{"mechanism_id": "IMS8-EQ8.104", "species": [{"species_id": "distonic_methylaminium_radical_cation", "mapped_smiles": "[CH3:1][NH2+:2][CH2:3][CH2:4][CH2:5][CH2:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "pyrrolidinium_ion", "mapped_smiles": "[NH2+:2]1[CH2:3][CH2:4][CH2:5][CH2:6]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "expelled_methyl_radical", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["distonic_methylaminium_radical_cation"]}, {"state_id": "state_products", "species_ids": ["pyrrolidinium_ion", "expelled_methyl_radical"]}], "steps": [{"step_id": "step_rd_displacement_distonic", "from_state": "state_precursor", "to_state": "state_products", "step_class": "radical_site_displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [2, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_104", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rd_displacement_distonic", "support_type": "textbook_proposed", "locator": {"page": 213, "equation": "8.104", "figure": null, "panel": "second scheme under the sub-heading 'Displacement:'", "section": "8.11 Other rearrangements"}, "confidence": 0.8, "curator_note": "Equation 8.104 is the DISTONIC counterpart of 8.103 and is drawn accordingly: 'R' is joined by a horizontal bond to 'Y', Y carries a bare '+' (no dot) and sits at the top-left of the U-shaped chain, and the far (top-right) end of the chain carries a lone radical dot on carbon. The arrow is labelled 'rd' and the products are 'R. + [ring, with + over the Y that now sits in the ring]' - i.e. the carbon radical attacks the charged heteroatom and displaces R.. So the bond that breaks is Y-R and the bond that forms is Y-C(radical); the charge stays on Y throughout. ARC COUNT (convention D): Book draws 2 arc(s), both single-barbed fishhooks whose barbs converge downwards into the gap between Y and the radical carbon - onto the forming Y-C bond. Arc 1 has its tail on the R-Y bond; arc 2 has its tail at the radical dot on the far carbon. Moves <1,2> are those two drawn arcs (move 1 = the carbon odd electron, move 2 = one electron of the breaking Y-R bond); move <3> is an implicit homolysis hook required for electron balance (not drawn on the page) - it puts the second electron of the breaking Y-R bond on R, producing the R. the book prints. INSTANTIATION (convention F): the page prints no m/z and no intensity. This record uses Y = NH2 and R = CH3, i.e. the distonic ion CH3-N(+)H2-CH2CH2CH2-CH2., an isomer (H already transferred from C to N) of the N-methylbutylamine molecular ion, m/z 87.1037; the displacement closes the six-electron-stable five-membered ring to give the pyrrolidinium ion C4H10N+ (m/z 72.0802) with loss of CH3. (15.0235). Y = NH2 was chosen because p. 214 names NH2 as the group whose rd cyclisations are favourable, but the choice is the curator's, not the book's. LOCALIZATION (convention B): the SMILES puts the charge on nitrogen as a four-coordinate closed-shell ammonium ([NH2+:2] with two heavy neighbours and two H) and the odd electron on the terminal carbon ([CH2:6] with one bond = one unpaired electron in RDKit), exactly where the book draws '+' and '.', so both drawn arcs have real origins."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 87.1037, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_72", "species_id": "pyrrolidinium_ion", "step_id": "step_rd_displacement_distonic", "observed_mz": 72.0802, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
